US04324792
(iii) N-[4-[1-(Imidazol-2-yl)-3-(N,N-dimethylamino)propyl]phenyl]formamide
A mixture of 3-(4-aminophenyl)-N,N-dimethyl-3-(imidazol-2-yl)propanamine (0.8 g), formic acid (2 ml) and toluene (50 ml) was boiled under reflux for 2 days in a Dean and Stark apparatus. Solvent was removed and the residue partitioned between 2 N sodium carbonate (25 ml) and ethyl acetate (3×50 ml). The extracts were dried (Na2SO4) and concentrated to a white solid. Recrystallisation from ethyl acetate gave the title compound, m.p. 142°-144°, (0.46 g). ν max (CHBr3) 3445, 3420,3390 (NH), 1690(CO), 1500, 2780 and 2820 cm-1.

reactant | 3-(4-aminophenyl)-N,N-dimethyl-3-(imidazol-2-yl)propanamine | 0.8 g | NC1=CC=C(C=C1)C(CCN(C)C)C=1NC=CN1 | C14H20N4
reactant | formic acid | 2 ml | C(=O)O | CH2O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-[4-[1-(Imidazol-2-yl)-3-(N,N-dimethylamino)propyl]phenyl]formamide | N1C(=NC=C1)C(CCN(C)C)C1=CC=C(C=C1)NC=O | C15H20N4O
